US07598249B2
4-Benzo[1,3]dioxol-5-ylmethyl-piperazine-1-carboxylic acid thiazol-2-ylamide
The title compound was prepared from 1-benzo[1,3]dioxol-5-ylmethyl-piperazine and thiazol-2-yl-carbamic acid phenyl ester in analogy with Example 142. 1H NMR (400 MHz, CDCl3): 7.30 (d, J=4.0 Hz, 1H), 6.89 (s, 1H), 6.85 (d, J=3.8 Hz, 1H), 6.77 (s, 2H), 5.97 (s, 1H), 5.96 (s, 2H), 3.62 (bs, 4H), 3.53 (s, 2H), 2.54 (bs, 4H).

reactant | 1-benzo[1,3]dioxol-5-ylmethyl-piperazine | O1COC2=C1C=CC(=C2)CN2CCNCC2 | C12H16N2O2
reactant | thiazol-2-yl-carbamic acid phenyl ester | C1(=CC=CC=C1)OC(NC=1SC=CN1)=O | C10H8N2O2S
product | 4-Benzo[1,3]dioxol-5-ylmethyl-piperazine-1-carboxylic acid thiazol-2-ylamide | S1C(=NC=C1)NC(=O)N1CCN(CC1)CC1=CC2=C(OCO2)C=C1 | C16H18N4O3S
